US07700657B2
(e) (4-{2-[3-(2-Ethyl[1,3]dioxolan-2-yl)phenyl]ethyl}-2-hydroxymethylphenyl)methanol
2.9 g (75 mmol) of lithium aluminum hydride are suspended in 20 ml of ethyl ether. A solution of 7.5 g (19 mmol) of dimethyl 4-{2-[3-(2-ethyl[1,3]dioxolan-2-yl)phenyl]ethyl}phthalate in 100 ml of ethyl ether is added drop by drop. After stirring at ambient temperature for 20 minutes, the reaction medium is treated by addition of 15 ml of water, 1.5 ml of 15% sodium carbonate and 4.5 ml of water, then filtered and concentrated under reduced pressure. A colorless oil is obtained (m=6.4 g; Y=99%).

reactant | lithium aluminum hydride | 75 mmol, 2.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | dimethyl 4-{2-[3-(2-ethyl[1,3]dioxolan-2-yl)phenyl]ethyl}phthalate | 19 mmol, 7.5 g | C(C)C1(OCCO1)C=1C=C(C=CC1)CCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C23H26O6
reactant | water | 15 ml | O | H2O
reactant | sodium carbonate | 1.5 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 4.5 ml | O | H2O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | (4-{2-[3-(2-Ethyl[1,3]dioxolan-2-yl)phenyl]ethyl}-2-hydroxymethylphenyl)methanol | C(C)C1(OCCO1)C=1C=C(C=CC1)CCC1=CC(=C(C=C1)CO)CO | C21H26O4
